US06900243B2
a) [3-(Benzoylthio)hexyl]methylcarbamic Acid 1,1-dimethylethyl ester
To a stirred solution of triphenylphosphine (1.13 g, 4.32 mmol) in dry tetrahydrofuran (12 ml) was added diisopropyl azodicarboxylate (0.88 ml, 4.32 mmol) dropwise with stirring at 0° C. under nitrogen. After stirring for 0.5 h, a solution of (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester (500 mg, 2.16 mmol) and thiobenzoic acid (0.51 ml, 4.3 mmol) in dry tetrahydrofuran (10 ml) was added at 0° C. The reaction mixture was stirred at 0° C. for 1 h, and then stirred at room temperature overnight. The mixture was evaporated, the residue dissolved in toluene and eluted down a flash chromatography column using 10% ether/isohexane as eluent to give 420 mg (55%) of product as a pale yellow oil.

reactant | triphenylphosphine | 4.32 mmol, 1.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.32 mmol, 0.88 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester | 2.16 mmol, 500 mg | OC(CCN(C(OC(C)(C)C)=O)C)CCC | C12H25NO3
reactant | thiobenzoic acid | 4.3 mmol, 0.51 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [3-(Benzoylthio)hexyl]methylcarbamic Acid 1,1-dimethylethyl ester | 420 mg, 55% | CC(C)(C)OC(N(C)CCC(CCC)SC(C1=CC=CC=C1)=O)=O | C19H29NO3S
